US07122543B2
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoic acid
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-phenylbenzoic acid (340 mg, 0.7819 mmol) was dissolved in a mixed solvent of acetonitrile (30 ml) and water (10 ml), then CAN (1.10 g, 2.0072 mmol) was added thereto at room temperature and the mixture was stirred for 3 hour. The reaction solution was poured into water and extracted with ether. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (5% methanol-methylene chloride) to give the title compound (234 mg, 0.5969 mmol, 76%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-phenylbenzoic acid | 0.7819 mmol, 340 mg | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C25H26O6
reactant | CAN | 2.0072 mmol, 1.10 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
product | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoic acid | 0.5969 mmol, 234 mg, 76% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)C1=CC=CC=C1)C)=O | C23H20O6
